US08492387B2
1-(4-fluoro-5-methoxy-1-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-2,3-dihydro-1H-inden-1-yl)ethanone (600 mg, 1.6 mmol) was diluted in THF (3 ml). This solution was cooled to −78° C. and Sodium bis(hexamethylsilyl) amide (1.8 ml, 1.8 mmol) was added. After stirring for 10 min, chloro trimethylsilane (230 μl, 1.8 mmol) was added drop wise at −78° C., after which the reaction was warmed to 0° C., and left stirring for 30 min. To this solution was added Phenyltrimethylammonium tribromide (680 mg, 1.8 mmol) portion wise, and THF (1 mL) was added for solubility purposes. The reaction mixture was allowed to warm to room temp. Aqueous work up, extracted with dichloromethane, dried over magnesium sulfate, filtered, concentrated under reduced pressure furnished 2-bromo-1-(4-fluoro-5-methoxy-1-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-2,3-dihydro-1H-inden-1-yl)ethanone. Used without further purification.

reactant | 1-(4-fluoro-5-methoxy-1-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-2,3-dihydro-1H-inden-1-yl)ethanone | 1.6 mmol, 600 mg | FC1=C2CCC(C2=CC=C1OC)(CC=1C=NC(=CC1)C(F)(F)F)C(C)=O | C19H17F4NO2
reactant | chloro trimethylsilane | 1.8 mmol, 230 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | Phenyltrimethylammonium tribromide | 1.8 mmol, 680 mg | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-bromo-1-(4-fluoro-5-methoxy-1-{[6-(trifluoromethyl)pyridin-3-yl]methyl}-2,3-dihydro-1H-inden-1-yl)ethanone | BrCC(=O)C1(CCC2=C(C(=CC=C12)OC)F)CC=1C=NC(=CC1)C(F)(F)F | C19H16BrF4NO2
